US07405221B2
2-Methylthio-5-(4-chlorophenyl)-4-(2,4-dichlorophenyl)pyrimidine from Reference Example 3 was reacted with α,α-dimethyl-4-fluorobenzyl alcohol according to the procedure described in Example 59 to afford 2-(α,α-dimethyl-4-fluorobenzyloxy)-4-(2,4-dichlorophenyl)-5-(4-chlorophenyl)pyrimidine (HRf): 1H-NMR 500 MHz (CDCl3): δ 1.91 (s, 6H), 6.90-7.00 (m, 5H), 7.20-7.25 (m, 3H), 7.30 (s, 1H), 7.41-7.45 (m, 2H), 8.40 (s, 1H).

reactant | 2-Methylthio-5-(4-chlorophenyl)-4-(2,4-dichlorophenyl)pyrimidine | CSC1=NC=C(C(=N1)C1=C(C=C(C=C1)Cl)Cl)C1=CC=C(C=C1)Cl | C17H11Cl3N2S
reactant | α,α-dimethyl-4-fluorobenzyl alcohol | CC(C1=CC=C(C=C1)F)(C)O | C9H11FO
product | 2-(α,α-dimethyl-4-fluorobenzyloxy)-4-(2,4-dichlorophenyl)-5-(4-chlorophenyl)pyrimidine | CC(C1=CC=C(C=C1)F)(OC1=NC=C(C(=N1)C1=C(C=C(C=C1)Cl)Cl)C1=CC=C(C=C1)Cl)C | C25H18Cl3FN2O
